2177-10-12 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-10-11**] 11:15 AM
 URINE CULTURE - At [**2177-10-11**] 11:15 AM
 EKG - At [**2177-10-11**] 11:35 AM
 MULTI LUMEN - START [**2177-10-11**] 03:12 PM
   - patient transferred hypotensive, unable to get RIJ in place, surgery
   put in a left SC
   - patient recieved 7L of fluids, did not need to be started on pressors
   - started vanc/zosyn due to concern for infection, WBC=28
   - MAPs in the 60's, with good UOP
   - HCT dropped, likely dilutional, will continue to trend, sent type and
   screen
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-11**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-12**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 99 (97 - 126) bpm
   BP: 92/57(65) {75/40(50) - 98/65(72)} mmHg
   RR: 12 (11 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (6 - 10)mmHg
   Total In:
                                                                  7,920 mL
                                                                    168 mL
   PO:
   TF:
   IVF:
                                                                  7,920 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                    676 mL
                                                                    515 mL
   Urine:
                                                                    676 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,244 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, well appearing in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple.
   CARDIAC: Normal S1, S2. Tachycardic
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft, appropriately TTP, midline staples without drainage or
   erythema, RLQ bandage c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   NEURO: A&Ox3. Appropriate. spontaneously moves all 4 ext.
   Labs / Radiology
   137 K/uL
   9.1 g/dL
   119 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   26 mg/dL
   111 mEq/L
   142 mEq/L
   27.1 %
   19.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
   WBC
   19.8
   Hct
   32.8
   29.5
   26.5
   27.1
   Plt
   137
   Cr
   1.7
   1.5
   TropT
   <0.01
   Glucose
   151
   119
   Other labs: PT / PTT / INR:16.6/34.7/1.5, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Microbiology:
   Blood Cultures: NGTD
   Urine Culture: negative
   Assessment and Plan
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen, though with elevated white count
   will cover empirically for intra-abdominal infection
   - IVF boluses to keep CVP 9-11
   - Central line [**Last Name (un) **] place
   - continue antibiotic coverage with vanc/zosyn
   - hold hypertensive meds
   - continue current dilaudid rate as his pressure is tolerating this
   level of pain meds and his pain is currently well controlled
   .
   # ARF: Most likely prerenal/ATN due to hypotension.
   - patient aggressively hydrated yesterday with increase in UOP, has
   remained stable, will bolus for low CVP and low UOP
   - urine lytes with very low sodium suggesting prerenal cause
   - avoid nephrotoxins
   .
   # S/P Ex Lap:
   - Wound care as per primary surgical team-changed dressing today,
   midline staples are c/d/I without any erythema
   - NPO with bowel rest, all diet changes as per primary surgical team
   .
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function with recent hypotension
   - CE
s negative
   - will f/u with surgery about possible reinitiation of aspirin
   .
   # H/o Vtach:  has been stable
   - monitor on tele and replete lytes prn
   .
   FEN:  NPO for now; replete lytes prn
   .
   PPX:
   -DVT ppx with fondaparinux given concern per HIT per surgical team
   -Pain management with dilaudid PCA, has used 9.25mg since [**10-11**] at
   10:30am
   ICU Care
   Nutrition: NPO for now as per surgery, may need NGT placed for
   decompression from above
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Emergency Contact: patient
s wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now, but will discuss possible call out later
   today with surgery

2177-10-12 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-10-11**] 11:15 AM
 URINE CULTURE - At [**2177-10-11**] 11:15 AM
 EKG - At [**2177-10-11**] 11:35 AM
 MULTI LUMEN - START [**2177-10-11**] 03:12 PM
   - patient transferred hypotensive, [**Doctor Last Name 902**] and Dr. [**Last Name (STitle) **] unable to get
   RIJ in place, surgery put in a left SC
   - patient recieved 7L of fluids, did not need to be started on pressors
   - started vanc/zosyn due to concern for infection, WBC=28
   - MAPs in the 60's, with good UOP
   - HCT dropped, likely dilutional, will continue to trend
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-11**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-12**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 99 (97 - 126) bpm
   BP: 92/57(65) {75/40(50) - 98/65(72)} mmHg
   RR: 12 (11 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (6 - 10)mmHg
   Total In:
                                                                  7,920 mL
                                                                    168 mL
   PO:
   TF:
   IVF:
                                                                  7,920 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                    676 mL
                                                                    515 mL
   Urine:
                                                                    676 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,244 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, well appearing in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple.
   CARDIAC: Normal S1, S2. Tachycardic. Flat JVP
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft NT, dressing c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   NEURO: A&Ox3. Appropriate. spontaneously moves all 4 ext.
   Labs / Radiology
   137 K/uL
   9.1 g/dL
   119 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   26 mg/dL
   111 mEq/L
   142 mEq/L
   27.1 %
   19.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
   WBC
   19.8
   Hct
   32.8
   29.5
   26.5
   27.1
   Plt
   137
   Cr
   1.7
   1.5
   TropT
   <0.01
   Glucose
   151
   119
   Other labs: PT / PTT / INR:16.6/34.7/1.5, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen, though with elevated white count
   will cover empirically for intra-abdominal infection
   - IVF boluses to keep CVP 9-11
   - Central line [**Last Name (un) **] place
   - continue antibiotic coverage with vanc/zosyn
   - hold hypertensive meds
   - continue current dilaudid rate as his pressure is tolerating this
   level of pain meds and his pain is currently well controlled
   .
   # ARF: Most likely prerenal/ATN due to hypotension.
   - patient aggressively hydrated yesterday with increase in UOP, has
   remained stable, will bolus for low CVP and low UOP
   - urine lytes with very low sodium suggesting prerenal cause
   - avoid nephrotoxins
   .
   # S/P Ex Lap:
   - Wound care as per primary surgical team
   - NPO with bowel rest, all diet changes as per primary surgical team
   .
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function with recent hypotension
   - CE
s negative
   - will f/u with surgery about possible reinitiation of aspirin
   .
   # H/o Vtach:  has been stable
   - monitor on tele and replete lytes prn
   .
   FEN:  NPO for now; replete lytes prn
   .
   PPX:
   -DVT ppx with fondaparinux given concern per HIT per surgical team
   -Pain management with dilaudid PCA, has used 9.25mg since [**10-11**] at
   10:30am
   ICU Care
   Nutrition: NPO for now as per surgery
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Emergency Contact: patient
s wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now

2177-10-12 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-10-11**] 11:15 AM
 URINE CULTURE - At [**2177-10-11**] 11:15 AM
 EKG - At [**2177-10-11**] 11:35 AM
 MULTI LUMEN - START [**2177-10-11**] 03:12 PM
   - patient transferred hypotensive, [**Doctor Last Name 902**] and Dr. [**Last Name (STitle) **] unable to get
   RIJ in place, surgery put in a left SC
   - patient recieved 7L of fluids, did not need to be started on pressors
   - started vanc/zosyn due to concern for infection, WBC=28
   - MAPs in the 60's, with good UOP
   - HCT dropped, likely dilutional, will continue to trend, sent type and
   screen
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-11**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-12**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 99 (97 - 126) bpm
   BP: 92/57(65) {75/40(50) - 98/65(72)} mmHg
   RR: 12 (11 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (6 - 10)mmHg
   Total In:
                                                                  7,920 mL
                                                                    168 mL
   PO:
   TF:
   IVF:
                                                                  7,920 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                    676 mL
                                                                    515 mL
   Urine:
                                                                    676 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,244 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, well appearing in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple.
   CARDIAC: Normal S1, S2. Tachycardic
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft NT, dressing c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   NEURO: A&Ox3. Appropriate. spontaneously moves all 4 ext.
   Labs / Radiology
   137 K/uL
   9.1 g/dL
   119 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   26 mg/dL
   111 mEq/L
   142 mEq/L
   27.1 %
   19.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
   WBC
   19.8
   Hct
   32.8
   29.5
   26.5
   27.1
   Plt
   137
   Cr
   1.7
   1.5
   TropT
   <0.01
   Glucose
   151
   119
   Other labs: PT / PTT / INR:16.6/34.7/1.5, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen, though with elevated white count
   will cover empirically for intra-abdominal infection
   - IVF boluses to keep CVP 9-11
   - Central line [**Last Name (un) **] place
   - continue antibiotic coverage with vanc/zosyn
   - hold hypertensive meds
   - continue current dilaudid rate as his pressure is tolerating this
   level of pain meds and his pain is currently well controlled
   .
   # ARF: Most likely prerenal/ATN due to hypotension.
   - patient aggressively hydrated yesterday with increase in UOP, has
   remained stable, will bolus for low CVP and low UOP
   - urine lytes with very low sodium suggesting prerenal cause
   - avoid nephrotoxins
   .
   # S/P Ex Lap:
   - Wound care as per primary surgical team-changed dressing today,
   midline staples are c/d/I without any erythema
   - NPO with bowel rest, all diet changes as per primary surgical team
   .
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function with recent hypotension
   - CE
s negative
   - will f/u with surgery about possible reinitiation of aspirin
   .
   # H/o Vtach:  has been stable
   - monitor on tele and replete lytes prn
   .
   FEN:  NPO for now; replete lytes prn
   .
   PPX:
   -DVT ppx with fondaparinux given concern per HIT per surgical team
   -Pain management with dilaudid PCA, has used 9.25mg since [**10-11**] at
   10:30am
   ICU Care
   Nutrition: NPO for now as per surgery, may need NGT placed for
   decompression from above
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Emergency Contact: patient
s wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now

2177-10-12 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-10-11**] 11:15 AM
 URINE CULTURE - At [**2177-10-11**] 11:15 AM
 EKG - At [**2177-10-11**] 11:35 AM
 MULTI LUMEN - START [**2177-10-11**] 03:12 PM
   - patient transferred hypotensive, [**Doctor Last Name 902**] and Dr. [**Last Name (STitle) **] unable to get
   RIJ in place, surgery put in a left SC
   - patient recieved 7L of fluids, did not need to be started on pressors
   - started vanc/zosyn due to concern for infection, WBC=28
   - MAPs in the 60's, with good UOP
   - HCT dropped, likely dilutional, will continue to trend
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-11**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-12**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 99 (97 - 126) bpm
   BP: 92/57(65) {75/40(50) - 98/65(72)} mmHg
   RR: 12 (11 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (6 - 10)mmHg
   Total In:
                                                                  7,920 mL
                                                                    168 mL
   PO:
   TF:
   IVF:
                                                                  7,920 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                    676 mL
                                                                    515 mL
   Urine:
                                                                    676 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,244 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, well appearing in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple.
   CARDIAC: Normal S1, S2. Tachycardic. Flat JVP
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft NT, dressing c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   NEURO: A&Ox3. Appropriate. spontaneously moves all 4 ext.
   Labs / Radiology
   137 K/uL
   9.1 g/dL
   119 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   26 mg/dL
   111 mEq/L
   142 mEq/L
   27.1 %
   19.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
   WBC
   19.8
   Hct
   32.8
   29.5
   26.5
   27.1
   Plt
   137
   Cr
   1.7
   1.5
   TropT
   <0.01
   Glucose
   151
   119
   Other labs: PT / PTT / INR:16.6/34.7/1.5, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen.  Will need to be vigilant for
   sepsis.
   - IVF boluses
   - Central line for CVP monitoring
   - send cultures and CXR
   - will discuss antibiotics coverage with vanc/zosyn with team
   - hold hypertensive meds
   - decrease dilaudid rate as this may be contributing
   .
   # ARF: Most likely prerenal/ATN due to hypotension.
   - IV hydration
   - urine lytes/eos
   - PM lytes
   - avoid nephrotoxins
   .
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function
   - cycle CE, unlikely to have unstable plaque
   - repeat ECG
   - restart ASA 81 mg daily, if not contraindicated by surgeons.
   .
   # H/o Vtach:
   - monitor on tele and replete lytes prn
   .
   FEN:  NPO for now; replete lytes prn
   .
   PPX:
   -DVT ppx with fondaparinux given concern per HIT per surgical team
   -Pain management with dilaudid PCA
   ICU Care
   Nutrition: NPO for now as per surgery
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Emergency Contact: patient
s wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now

2177-10-13 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - c/o abdominal pain (post-op) w coughing
   - consider peeling back vanc soon depending on clinical status
   - BP tolerating dilaudid PCA
   - bolus w LR to maintain CVP 8-10
   - PM lytes stable
   - renally dose meds
   - still not back down to baseline Cr
   - Vanc trough 7pm =
   - TTE for monday
   - started PPI, per [**Doctor First Name **] recs (IV b/c pt is [**Name (NI) 7950**]
   - [**Doctor First Name **] does not feel comfortable taking him yet, so will call out
   tomorrow
   - restarted ASA (approved by [**Doctor First Name 213**])
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-12**] 08:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-13**] 03:54 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-12**] 06:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-13**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 91 (91 - 106) bpm
   BP: 93/62(69) {80/41(53) - 106/71(78)} mmHg
   RR: 14 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (4 - 11)mmHg
   Total In:
                                                                  1,950 mL
                                                                    166 mL
   PO:
   TF:
   IVF:
                                                                  1,950 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,353 mL
                                                                    220 mL
   Urine:
                                                                  1,353 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   88 K/uL
   7.9 g/dL
   93 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   23 mg/dL
   111 mEq/L
   141 mEq/L
   23.9 %
   13.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
                            [**2177-10-12**]  06:16 PM
                            [**2177-10-12**]  06:17 PM
                            [**2177-10-13**]  04:32 AM
   WBC
   19.8
   13.8
   Hct
   32.8
   29.5
   26.5
   27.1
   25.1
   23.9
   Plt
   137
   88
   Cr
   1.7
   1.5
   1.4
   1.3
   TropT
   <0.01
   Glucose
   151
   119
   102
   93
   Other labs: PT / PTT / INR:14.6/33.5/1.3, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen, though with elevated white count
   will cover empirically for intra-abdominal infection
   - IVF boluses to keep CVP 9-11
   - Central line [**Last Name (un) **] place
   - continue antibiotic coverage with vanc/zosyn
   - hold hypertensive meds
   - continue current dilaudid rate as his pressure is tolerating this
   level of pain meds and his pain is currently well controlled
   .
   # ARF: Most likely prerenal/ATN due to hypotension.
   - patient aggressively hydrated yesterday with increase in UOP, has
   remained stable, will bolus for low CVP and low UOP
   - urine lytes with very low sodium suggesting prerenal cause
   - avoid nephrotoxins
   .
   # S/P Ex Lap:
   - Wound care as per primary surgical team-changed dressing today,
   midline staples are c/d/I without any erythema
   - NPO with bowel rest, all diet changes as per primary surgical team
   .
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function with recent hypotension
   - CE
s negative
   - will f/u with surgery about possible reinitiation of aspirin
   .
   # H/o Vtach:  has been stable
   - monitor on tele and replete lytes prn
   .
   FEN:  NPO for now; replete lytes prn
   .
   PPX:
   -DVT ppx with fondaparinux given concern per HIT per surgical team
   -Pain management with dilaudid PCA, has used 9.25mg since [**10-11**] at
   10:30am
   ICU Care
   Nutrition: NPO for now as per surgery, may need NGT placed for
   decompression from above
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Emergency Contact: patient
s wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now, but will discuss possible call out later
   today with surgery

2177-10-13 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - c/o abdominal pain (post-op) w coughing
   - consider peeling back vanc soon depending on clinical status
   - BP tolerating dilaudid PCA
   - bolus w LR to maintain CVP 8-10
   - PM lytes stable
   - renally dose meds
   - still not back down to baseline Cr
   - Vanc trough 7pm =
   - TTE for monday
   - started PPI, per [**Doctor First Name **] recs (IV b/c pt is [**Name (NI) 7950**]
   - [**Doctor First Name **] does not feel comfortable taking him yet, so will call out
   tomorrow
   - restarted ASA (approved by [**Doctor First Name 213**])
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-12**] 08:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-13**] 03:54 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-12**] 06:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-13**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 91 (91 - 106) bpm
   BP: 93/62(69) {80/41(53) - 106/71(78)} mmHg
   RR: 14 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (4 - 11)mmHg
   Total In:
                                                                  1,950 mL
                                                                    166 mL
   PO:
   TF:
   IVF:
                                                                  1,950 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,353 mL
                                                                    220 mL
   Urine:
                                                                  1,353 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, well appearing in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple.
   CARDIAC: Normal S1, S2. Tachycardic
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft, appropriately TTP, midline staples without drainage or
   erythema, RLQ bandage c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   NEURO: A&Ox3. Appropriate. spontaneously moves all 4 ext.
   Labs / Radiology
   88 K/uL
   7.9 g/dL
   93 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   23 mg/dL
   111 mEq/L
   141 mEq/L
   23.9 %
   13.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
                            [**2177-10-12**]  06:16 PM
                            [**2177-10-12**]  06:17 PM
                            [**2177-10-13**]  04:32 AM
   WBC
   19.8
   13.8
   Hct
   32.8
   29.5
   26.5
   27.1
   25.1
   23.9
   Plt
   137
   88
   Cr
   1.7
   1.5
   1.4
   1.3
   TropT
   <0.01
   Glucose
   151
   119
   102
   93
   Other labs: PT / PTT / INR:14.6/33.5/1.3, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen, though with elevated white count
   will cover empirically for intra-abdominal infection
   - IVF boluses to keep CVP 9-11
   - Central line [**Last Name (un) **] place
   - continue antibiotic coverage with vanc/zosyn
   - hold hypertensive meds
   - continue current dilaudid rate as his pressure is tolerating this
   level of pain meds and his pain is currently well controlled
   .
   # ARF: Most likely prerenal/ATN due to hypotension.
   - patient aggressively hydrated yesterday with increase in UOP, has
   remained stable, will bolus for low CVP and low UOP
   - urine lytes with very low sodium suggesting prerenal cause
   - avoid nephrotoxins
   .
   # S/P Ex Lap:
   - Wound care as per primary surgical team-changed dressing today,
   midline staples are c/d/I without any erythema
   - NPO with bowel rest, all diet changes as per primary surgical team
   .
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function with recent hypotension
   - CE
s negative
   - will f/u with surgery about possible reinitiation of aspirin
   .
   # H/o Vtach:  has been stable
   - monitor on tele and replete lytes prn
   .
   FEN:  NPO for now; replete lytes prn
   .
   PPX:
   -DVT ppx with fondaparinux given concern per HIT per surgical team
   -Pain management with dilaudid PCA, has used 9.25mg since [**10-11**] at
   10:30am
   ICU Care
   Nutrition: NPO for now as per surgery, may need NGT placed for
   decompression from above
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Emergency Contact: patient
s wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now, but will discuss possible call out later
   today with surgery

2177-10-13 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - c/o abdominal pain (post-op) w coughing
   - consider peeling back vanc soon depending on clinical status
   - BP tolerating dilaudid PCA
   - bolus w LR to maintain CVP 8-10
   - PM lytes stable
   - renally dose meds
   - still not back down to baseline Cr
   - Vanc trough 7pm =
   - TTE for monday
   - started PPI, per [**Doctor First Name **] recs (IV b/c pt is [**Name (NI) 7950**]
   - [**Doctor First Name **] does not feel comfortable taking him yet, so will call out
   tomorrow
   - restarted ASA (approved by [**Doctor First Name 213**])
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-12**] 08:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-13**] 03:54 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-12**] 06:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-13**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 91 (91 - 106) bpm
   BP: 93/62(69) {80/41(53) - 106/71(78)} mmHg
   RR: 14 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (4 - 11)mmHg
   Total In:
                                                                  1,950 mL
                                                                    166 mL
   PO:
   TF:
   IVF:
                                                                  1,950 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,353 mL
                                                                    220 mL
   Urine:
                                                                  1,353 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, well appearing in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRL. OP clear.
   CARDIAC: Normal S1, S2. Tachycardic
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft, appropriately TTP, midline staples without drainage or
   erythema, RLQ bandage c/d/i. No R/G.
   EXTREMITIES: No edema or calf pain.
   NEURO: A&Ox3. Appropriate. spontaneously moves all 4 ext.
   Labs / Radiology
   88 K/uL
   7.9 g/dL
   93 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   23 mg/dL
   111 mEq/L
   141 mEq/L
   23.9 %
   13.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
                            [**2177-10-12**]  06:16 PM
                            [**2177-10-12**]  06:17 PM
                            [**2177-10-13**]  04:32 AM
   WBC
   19.8
   13.8
   Hct
   32.8
   29.5
   26.5
   27.1
   25.1
   23.9
   Plt
   137
   88
   Cr
   1.7
   1.5
   1.4
   1.3
   TropT
   <0.01
   Glucose
   151
   119
   102
   93
   Other labs: PT / PTT / INR:14.6/33.5/1.3, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis. This was complicated by hypotension, requiring admission
   to the [**Hospital Unit Name 1**].
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen, though with elevated white count
   will cover empirically for intra-abdominal infection. Also consider
   bleeding in the setting recent surgery.
   - IVF boluses to keep CVP
   9-11
   - Central line [**Last Name (un) **] place
   - continue antibiotic coverage with vanc/zosyn. Could consider d/c
   vanc pending surgery recs
   - hold hypertensive meds
   - continue current dilaudid rate as his pressure is tolerating this
   level of pain meds and his pain is currently well controlled
   .
   # ARF: Most likely prerenal/ATN due to hypotension.
   - continue PRN hydration, using CVP and urine output to guide therapy
   - avoid nephrotoxins
   .
   # Anemia: Recent Hct drop. Need to consider hemorrhage in post-op
   setting.
   - follow Hct
   - consider CT abdomen to assess for bleeding
   - add on hemolysis labs
   - transfusing with 1 unit PRBC
   .
   # S/P Ex Lap:
   - Wound care as per primary surgical team-changed dressing today,
   midline staples are c/d/I without any erythema
   - NPO with bowel rest, all diet changes as per primary surgical team
   .
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function with recent hypotension
   - CE
s negative
   - on aspirin 81 mg PO daily
   .
   # H/o Vtach:  has been stable
   - monitor on tele and replete lytes prn
   ICU Care
   Nutrition: NPO for now as per surgery
   Glycemic Control:
   Pain management: Dilaudid PCA
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: fondaparinux (history of HIT)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Emergency Contact: patient
s wife
   [**Name (NI) 36**] status: Full code
   Disposition: likely call out to surgery

2177-10-13 13:04:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Good progress overnight.
   Up in chair this AM.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-13**] 03:54 AM
   Vancomycin - [**2177-10-13**] 08:42 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-12**] 06:26 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-10-13**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 93 (91 - 103) bpm
   BP: 97/63(71) {84/51(60) - 115/82(89)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 9 (4 - 9)mmHg
   Total In:
                                                                  1,950 mL
                                                                    923 mL
   PO:
   TF:
   IVF:
                                                                  1,950 mL
                                                                    623 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,353 mL
                                                                    460 mL
   Urine:
                                                                  1,353 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   88 K/uL
   93 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   23 mg/dL
   111 mEq/L
   141 mEq/L
   23.9 %
   13.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
                            [**2177-10-12**]  06:16 PM
                            [**2177-10-12**]  06:17 PM
                            [**2177-10-13**]  04:32 AM
   WBC
   19.8
   13.8
   Hct
   32.8
   29.5
   26.5
   27.1
   25.1
   23.9
   Plt
   137
   88
   Cr
   1.7
   1.5
   1.4
   1.3
   TropT
   <0.01
   Glucose
   151
   119
   102
   93
   Other labs: PT / PTT / INR:14.6/33.5/1.3, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   Shock
 likely hypovolemic +/- septic, no evidence of bleeding based on
   Hct. Currently being bolused with IVF. Will send cultures, CXR and
   start broad spectrum abx. Looks quite comfortable. If BP does not
   improve after next [**Last Name (LF) **], [**First Name3 (LF) **] insert CVC +/- a line. At risk of
   pulmonary edema given CHF. Can aim for MAP>60 given cardiomyopathy.
   Baseline SBP ~110.
   Renal insufficiency
 likely prerenal. Will follow.
   Pain management
   DVT prophylaxis
 fondaparinux given hx of HIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2177-10-13 13:04:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Good progress overnight.
   Up in chair this AM.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-13**] 03:54 AM
   Vancomycin - [**2177-10-13**] 08:42 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-12**] 06:26 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-10-13**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 93 (91 - 103) bpm
   BP: 97/63(71) {84/51(60) - 115/82(89)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 9 (4 - 9)mmHg
   Total In:
                                                                  1,950 mL
                                                                    923 mL
   PO:
   TF:
   IVF:
                                                                  1,950 mL
                                                                    623 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,353 mL
                                                                    460 mL
   Urine:
                                                                  1,353 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   88 K/uL
   93 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   23 mg/dL
   111 mEq/L
   141 mEq/L
   23.9 %
   13.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
                            [**2177-10-12**]  06:16 PM
                            [**2177-10-12**]  06:17 PM
                            [**2177-10-13**]  04:32 AM
   WBC
   19.8
   13.8
   Hct
   32.8
   29.5
   26.5
   27.1
   25.1
   23.9
   Plt
   137
   88
   Cr
   1.7
   1.5
   1.4
   1.3
   TropT
   <0.01
   Glucose
   151
   119
   102
   93
   Other labs: PT / PTT / INR:14.6/33.5/1.3, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   SHOCK
 likely hypovolemic +/- septic. Clinically improved with
   surgical treatment and antimicrobials.
   RENAL FAILURE
 hypovolemia.  Receiving repletion.
   HIT+ -- fondaparinux for prophylaxis
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen, though with elevated white count
   will cover empirically for intra-abdominal infection
   - IVF boluses to keep CVP 9-11
   - Central line [**Last Name (un) **] place
   - continue antibiotic coverage with vanc/zosyn
   - hold hypertensive meds
   - continue current dilaudid rate as his pressure is tolerating this
   level of pain meds and his pain is currently well controlled
   .
   FLUIDS -- remains net volume depleted attributed to sepsis and
   intraoperative fluid loss.
   ANEMIA
 unclear etiology.  [**Month (only) 51**] be due to phlebotomy, but need to
   consider abdominal imaging (CT).  Doubt hemolysis.
   # ARF: Most likely prerenal/ATN due to hypotension.
   - patient aggressively hydrated yesterday with increase in UOP, has
   remained stable, will [**Month (only) **] for low CVP and low UOP
   - urine lytes with very low sodium suggesting prerenal cause
   - avoid nephrotoxins
   .
   # S/P Ex Lap:
   - Wound care as per primary surgical team-changed dressing today,
   midline staples are c/d/I without any erythema
   - NPO with bowel rest, all diet changes as per primary surgical team
   OPTIMZE PAIN MANAGEMENT --
   CHOLY-CUTANEOUS FISTULA
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function with recent hypotension
   - CE
s negative
   - will f/u with surgery about possible reinitiation of aspirin
   .
   # H/o Vtach:  has been stable
   - monitor on tele and replete lytes prn
   .
   FEN:  NPO for now; replete lytes prn
   .
   PPX:
   -DVT ppx with fondaparinux given concern per HIT per surgical team
   -Pain management with dilaudid PCA, has used 9.25mg since [**10-11**] at
   10:30am
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2177-10-13 13:04:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Good progress overnight.
   Up in chair this AM.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-13**] 03:54 AM
   Vancomycin - [**2177-10-13**] 08:42 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-12**] 06:26 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-10-13**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 93 (91 - 103) bpm
   BP: 97/63(71) {84/51(60) - 115/82(89)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 9 (4 - 9)mmHg
   Total In:
                                                                  1,950 mL
                                                                    923 mL
   PO:
   TF:
   IVF:
                                                                  1,950 mL
                                                                    623 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,353 mL
                                                                    460 mL
   Urine:
                                                                  1,353 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   88 K/uL
   93 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   23 mg/dL
   111 mEq/L
   141 mEq/L
   23.9 %
   13.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
                            [**2177-10-12**]  06:16 PM
                            [**2177-10-12**]  06:17 PM
                            [**2177-10-13**]  04:32 AM
   WBC
   19.8
   13.8
   Hct
   32.8
   29.5
   26.5
   27.1
   25.1
   23.9
   Plt
   137
   88
   Cr
   1.7
   1.5
   1.4
   1.3
   TropT
   <0.01
   Glucose
   151
   119
   102
   93
   Other labs: PT / PTT / INR:14.6/33.5/1.3, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   65 yom colocutaneous fistula and bowel involvement, now s/p exploratory
   laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   SHOCK
 likely hypovolemic +/- septic. Clinically improved with
   surgical treatment, volume resussitation, and antimicrobials.
   RENAL FAILURE
 hypovolemia.  Receiving repletion.   Urine lytes with
   very low sodium suggesting prerenal etiology.  Avoid nephrotoxins
   HIT+ -- fondaparinux for prophylaxis
   FLUIDS -- remains net volume depleted attributed to sepsis and
   intraoperative fluid loss.
   ANEMIA
 unclear etiology.  [**Month (only) 51**] be due to phlebotomy, but need to
   consider abdominal imaging (CT).  Doubt hemolysis.
   CHOLY-CUTANEOUS FISTULA
  Wound care as per primary surgical
   team-changed dressing today, midline staples are c/d/I without any
   erythema.  NPO with bowel rest, all diet changes as per primary
   surgical team
   OPTIMZE PAIN MANAGEMENT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes